US08563575B2
13a) tert-butyl 5-nitro-2,3-dihydro-1H-indole-1-carboxylate
To a stirred mixture of 5-nitroindoline (5.0 g) and Boc2O (7.07 mL) in THF (100 mL) was added DMAP (0.5 g) at room temperature. The mixture was stirred at 60° C. for 3 h. The mixture was quenched with water, treated with sat. NaHCO3aq. and extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was used for the next reaction without further purification.

reactant | 5-nitroindoline | 5.0 g | [N+](=O)([O-])C=1C=C2CCNC2=CC1 | C8H8N2O2
reactant | Boc2O | 7.07 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 5-nitro-2,3-dihydro-1H-indole-1-carboxylate | [N+](=O)([O-])C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H16N2O4
